US07915424B2
3-(5-Fluoropyridin-3-ylethynyl)-benzonitrile
Add triethylamine (0.79 mL, 5.64 mmol), copper (I) iodide (15.43 mg, 0.08 mmol) and bis(triphenylphosphine)palladium (II) dichloride (49.48 mg, 0.07 mmol) to a solution of trifluoromethanesulfonic acid 5-fluoropyridin-3-ylester, (prepared as described in PREPARATION 6), (345 mg, 1.41 mmol) and 3-ethynylbenzonitrile, prepared as described in PREPARATION 8), (230 mg, 1.41 mmol) in ethyl acetate (2 mL). Stir in a sealed tube at 70° C. for 18 h. Concentrate and purify by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:ethyl acetate, to give the title compound (109 mg, 35%).

reactant | triethylamine | 5.64 mmol, 0.79 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid 5-fluoropyridin-3-ylester | 1.41 mmol, 345 mg | FC=1C=C(C=NC1)OS(=O)(=O)C(F)(F)F | C6H3F4NO3S
reactant | 3-ethynylbenzonitrile | C(#C)C=1C=C(C#N)C=CC1 | C9H5N
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.08 mmol, 15.43 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.07 mmol, 49.48 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-(5-Fluoropyridin-3-ylethynyl)-benzonitrile | 109 mg, 35% | FC=1C=C(C=NC1)C#CC=1C=C(C#N)C=CC1 | C14H7FN2
